US08912188B2
To a solution of methyl 2-(5-fluorobenzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (160 mg, 0.41 mmol) in methanol (30 mL) and water (1 mL) was added sodium hydroxide (48.85 mg, 1.22 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (30 mL) and adjusted to pH 5 with HCl (3N). The solids were collected by filtration to afford 2-(5-fluorobenzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (120.0 mg, 74%).

reactant | methyl 2-(5-fluorobenzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.41 mmol, 160 mg | FC=1C=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N(C)C(C)C)C(=O)OC)C1 | C22H20FN3O3
reactant | sodium hydroxide | 1.22 mmol, 48.85 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 2-(5-fluorobenzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 120.0 mg, 74% | FC=1C=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N(C)C(C)C)C(=O)O)C1 | C21H18FN3O3
